US08791161B2
5-chloro-2-((4-nitrobenzyl)thio)aniline
Following General Procedure A, the title compound (624 mg, 92%) was prepared from 2-amino-4-chlorobenzenethiol (555 mg, 3.10 mmol), 1-(bromomethyl)-4-nitrobenzene (490 mg, 2.268 mmol) and K2CO3 (1.3 g, 9.50 mmol) in DMF (20 ml).

reactant | 2-amino-4-chlorobenzenethiol | 3.10 mmol, 555 mg | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 1-(bromomethyl)-4-nitrobenzene | 2.268 mmol, 490 mg | BrCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | K2CO3 | 9.50 mmol, 1.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-chloro-2-((4-nitrobenzyl)thio)aniline | 624 mg, 92% | ClC=1C=CC(=C(N)C1)SCC1=CC=C(C=C1)[N+](=O)[O-] | C13H11ClN2O2S
